US07759385B2
The diastereoisomer mixture of (4-dimethylamino-4-phenylcyclohexylmethyl)-carbamic acid-4-nitro-phenyl ester (825.5 mg, 2.08 mmole) was added to a solution of 3-(1,2,3,6-tetrahydropyridine-4-yl)-1H-indole (411.8 mg, 2.08 mmole) in dioxane (10 ml). The reaction mixture formed a clear, reddish-brown solution above 60° C. The solution was boiled under reflux for 12 hours. The solution was worked up by distilling off the solvent in vacuo. The residue contained, apart from nitrophenol, also the two diastereoisomers of 4-(1H-indol-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexylmethyl)-amide. The diastereoisomers were separated and purified by flash chromatography on silica gel (120 g). Methanol (2000 ml) was used as eluent. The non-polar diastereoisomer (351 mg, m.p. 204°-206° C., 37%) and the polar diastereoisomer of 4-(1H-indol-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexylmethyl)-amide (270 mg, m.p. 112°-115° C., 28%) were thereby obtained as pale yellow solids.

reactant | (4-dimethylamino-4-phenylcyclohexylmethyl)-carbamic acid-4-nitro-phenyl ester | 2.08 mmole, 825.5 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(NCC1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O | C22H27N3O4
reactant | 3-(1,2,3,6-tetrahydropyridine-4-yl)-1H-indole | 2.08 mmole, 411.8 mg | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-(1H-indol-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexylmethyl)-amide | 270 mg, 28% | CN(C1(CCC(CC1)CNC(=O)N1CCC(=CC1)C1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C29H36N4O
